US05030703
4-Benzoyloxyphenyl 4-benzoyloxybenzoate is prepared from 4-hydroxyphenyl 4-hydroxybenzoate and benzoyl chloride in accordance with the instructions from example 1.

reactant | 4-hydroxyphenyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC2=CC=C(C=C2)O)C=C1 | C13H10O4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 4-Benzoyloxyphenyl 4-benzoyloxybenzoate | C(C1=CC=CC=C1)(=O)OC1=CC=C(C(=O)OC2=CC=C(C=C2)OC(C2=CC=CC=C2)=O)C=C1 | C27H18O6
